Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
heroine overdose
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male with history of IV heroin abuse who presents 
with drug overdose. The patient just got out of prison one day 
prior to admission, after a year long sentence for armed 
robbery.  He states he was angry after visiting his family who 
did not want to have anything to do with him.  He took 5 tabs of 
clonazepam and heroine obtained from the streets.  He first 
tried to inject on his left hand which infiltrated into his soft 
tissue and injected into his right arm.  He is unsure how much 
he used or what happened thereafter.  He lost consciousness and 
does not recall what happened. EMS gave him Narcan at 
approximately 3:00 AM. He became alert after receiving that. He 
denies any falls. He denies any chest pain or shortness of 
breath. Denies any suicidal or homicidal ideation. Denies any 
other drug or alcohol use. He complains of diffuse right thigh 
pain. He noticed that when he woke up after getting the Narcan. 
No history of blood clots. No numbness or weakness.

In the ED, initial VS: 98.2 110 144/60 18 98% RA. 
Exam was concerning for hand cellulitis.  
Labs showed lactate 1.8, WBC 8.2, Cr 1.0. 
CXR showed R lung base opacity concerning for pneumonia. 
He was given naloxone 0.4 mg, augmentin and vancomycin for 
cellulitis, ketorolac 30 mg IV, and Tylenol ___ mg po and 2L 
bolus.

Given his RLE pain, ___ was ordered.  

Prior to transfer VS: T101.7 118 120/71 22 95% nasal cannula. 
 
ROS:  
No chills, night sweats, or weight changes. No changes in vision 
or hearing, no changes in balance. No cough, no shortness of 
breath, no dyspnea on exertion. No chest pain or palpitations. 
No nausea or vomiting. No diarrhea or constipation. No dysuria 
or hematuria. No hematochezia, no melena. No numbness or 
weakness, no focal deficits.
 
Past Medical History:
Asthma
Crohn's per patient but states not active and never needed 
medications, had colonoscopy with biopsy before which confirmed 
diagnosis.
Hepatitis C
 
Social History:
___
Family History:
Grandmother with dementia.  No other known medical problems in 
other family members, no heart disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  T98.3 100/43 117 20 95% RA
GEN: Alert, lying in bed, no acute distress  
HEENT: AT/NC, MM dry, anicteric sclera, no conjunctival pallor  
NECK: Supple without LAD  
PULM: R lung base with rhonchi and crackles, left lung base with 
basilar crackles  
COR: Tachycardic but normal rhythm, normal S1/S2, no murmurs 
ABD: Soft, NT ND, normal BS  
EXTREM: Warm, no edema; Left hand with erythema and swelling and 
increased warmth, no clear demarcation, hand movement, grip and 
sensation intact. R antecub with track marks.  Multiple 
excoriations over bilateral lower extremities with concern or 
signs of infection.  R thigh tender to palpation compared to 
left.  Movement limited by pain but ROM is intact and no 
synovitis over R hip. 
NEURO: CN II-XII grossly intact, motor function grossly normal 

ADMISSION PHYSICAL EXAM:
VS: Tm/c99.6 109/56 73 18 99%RA
GEN: Alert, lying in bed, no acute distress  
HEENT: MMM, EOMI
NECK: Supple without LAD  
PULM: R lung base with rhonchi and crackles improving but still 
present, left lung clear
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, NT ND, normal BS  
EXTREM: Warm, no edema; Left hand cellulitis improved. R thigh 
no longer tender. ROM intact. 
NEURO: CN II-XII grossly intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS:
___ 06:55AM BLOOD WBC-8.2 RBC-4.96 Hgb-14.4 Hct-42.8 MCV-86 
MCH-29.0 MCHC-33.6 RDW-14.5 RDWSD-45.7 Plt ___
___ 06:55AM BLOOD Glucose-98 UreaN-16 Creat-1.0 Na-135 
K-4.7 Cl-101 HCO3-22 AnGap-17
___ 06:55AM BLOOD ALT-68* AST-71* LD(LDH)-478* 
CK(CPK)-2442* AlkPhos-79 TotBili-0.8
___ 03:15PM BLOOD Calcium-7.3* Phos-2.7 Mg-1.6
___ 07:06AM BLOOD ___ pO2-37* pCO2-49* pH-7.34* 
calTCO2-28 Base XS-0 Intubat-NOT INTUBA
___ 07:06AM BLOOD Lactate-1.8

DISCHARGE LABS: 
___ 07:05AM BLOOD WBC-4.9 RBC-3.62* Hgb-10.5* Hct-31.9* 
MCV-88 MCH-29.0 MCHC-32.9 RDW-14.6 RDWSD-47.8* Plt ___
___ 07:05AM BLOOD Glucose-100 UreaN-7 Creat-0.6 Na-142 
K-3.7 Cl-113* HCO3-22 AnGap-11
___ 07:05AM BLOOD ALT-60* AST-57* CK(CPK)-1521* AlkPhos-56 
TotBili-0.2
___ 07:05AM BLOOD Calcium-8.0* Phos-2.7 Mg-1.7

PERTINENT LABS:
___ 06:55AM BLOOD ALT-68* AST-71* LD(___)-478* 
CK(CPK)-2442* AlkPhos-79 TotBili-0.8
___ 03:15PM BLOOD ALT-53* AST-57* CK(CPK)-2451* AlkPhos-63 
TotBili-0.6
___ 08:05AM BLOOD ALT-60* AST-63* CK(CPK)-2166* AlkPhos-63 
TotBili-0.6
___ 07:05AM BLOOD ALT-60* AST-57* CK(CPK)-1521* AlkPhos-56 
TotBili-0.2
___ 06:55AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 07:05AM BLOOD HIV Ab-Negative

URINE: 
___ 03:24PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:24PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 03:24PM URINE RBC-0 WBC-0 Bacteri-NONE Yeast-NONE Epi-0
___ 03:24PM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING: 
CXR ___
An opacity at the right lung base is concerning for pneumonia. 

FEMUR AP & LATERAL, RIGHT ___
No acute fractures or dislocations are seen. Joint spaces are 
preserved 
without significant degenerative changes. There is normal 
osseous 
mineralization. 

 
Brief Hospital Course:
___ male with history of IV heroin abuse who presents 
with drug overdose with fevers, with concern for cellulitis and 
pneumonia. 

# HEROINE OVERDOSE:  Patient was found down after taking five 
clonazepam tablets and unknown amount of heroine.  He was given 
narcan by EMS and in the ED and regained consciousness.  He was 
seen by SW on admission and given resources for ___ rehab 
facilities which he was interested in.  Prior to his AMA 
discharge, discussed consequences of IVDU including overdose, 
serious injury, infections including endocarditis which could 
spread further infection to other organs.  

# CELLULITIS:  Patient presented with fevers to 101.7 in ED and 
to 102 on day of admission and tachycardia to 110s, with left 
hand cellulitis at site of heroine injection.  He was treated 
with IV unasyn and vancomycin with improvement in cellulitis, 
and was afebrile thereafter.  He was transitioned to PO 
augmentin and doxycycline on day of discharge but left AMA prior 
to being observed off IV antibiotics.  

# COMMUNITY ACQUIRED PNEUMONIA:  Patient presented with fevers 
as above, and was found to have right pneumonia with rhonchi and 
craklces in right mid and lung base.  He remained on RA on 
admission and denied shortness of breath or cough.  He was 
continued on antibiotics as above IV unasyn, vancomycin 
___ and on augmentin and doxycycline at discharge.  
Recommended PA and lateral CXR in ___ weeks. 

# RHADOMYOLYSIS/RIGHT LEG PAIN:  Patient complained of R leg 
pain with tenderness to palpation over his R quadriceps muscle.  
Plain film showed no fracture or dislocation.  He was found to 
have CK elevation consistent with rhabdomyolysis which 
downtrended appropriately with IVF without Cr bump. On day of 
discharge, patient endorsed no pain and was ambulating with 
normal gait. 

# TRANSAMINITIS:  Patient was noted to have transaminitis and 
had hepatitis serologies pending at discharge.  HIV test sent 
with consent was negative.  He reports he was previously 
diagnosed with Hep C, never treated.  Unfortunately he left 
prior to hep C VL being drawn due to AMA discharge.  He was 
advised to establish primary care to discuss this and to have 
labs drawn as he could potentially require and would benefit 
from available treatment to avoid risk of liver damage which 
could lead to liver failure.  

**AMA DISCHARGE:  Patient had been symptomatically improving but 
unfortunately, patient decided to leave against medical advice 
immediately after switching from IV to PO antibiotic regimen, 
verbalizing that he was aware of risk of serious infection of 
his hand and his lungs worsening on the oral antibiotic regimen 
as he had not been adequately monitored on the discharge oral 
regimen.  Patient was also advised to not use IVDU and discusse 
risks as above.  He was seen by ___ with referrals to rehab 
facilities and shelters as he is homeless.** 

TRANSITIONAL ISSUES: 
====================
-Discharged on 7-day antibiotic regimen with Augmentin and 
Doxycycline through ___.
-Will need f/u CXR in ___ weeks
-Patient had transaminitis and stated before leaving he has 
history of hepatitis C. He left before a viral load could be 
drawn. He was instructed to establish care with a PCP to have 
this checked as he may need and benefit from treatment. 
-Resources from ___ provided for housing and rehab facilities
 
Discharge Medications:
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*9 Tablet Refills:*0
2. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*9 Tablet Refills:*0
3. Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour apply as directed daily Disp #*30 
Patch Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Heroine abuse
Intravenous drug use
Community acquired pneumonia
Cellulitis
Rhabdomyolysis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
**DISCHARGED AGAINST MEDICAL ADVICE**

You were admitted to the hospital after heroine overdose with 
fevers, pneumonia, cellulitis (skin infection), and right leg 
pain due to rhabdomyolysis (breakdown of muscle).  

You were treated with IV antibiotics and IV fluids and 
transitioned to an oral antibiotic regimen.  Unfortunately you 
decided to leave against medical advice despite risk of 
worsening infection and not having a clear plan regarding where 
you will live and for rehabilitation from substance abuse.  
Please continue the oral antibiotics.  Please be aware these 
medications can cause stomach upset as the most common side 
effect. 

Your liver tests were also elevated and you should be seen by a 
doctor to follow up on your labs, and to test you for hepatitis 
C viral load as you stated you have hepatitis C (you left before 
this could be drawn).  We also recommend a chest x-ray in ___ 
weeks. 

Please refrain from using heroine or other substances as 
discussed to prevent future hospitalizations and risk of serious 
infection and death.
 
Followup Instructions:
___